simulator lang=spectre
global 0
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=tt
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=stat_noise
simulator lang=spectre insensitive=no
include "cells.scs"
include "receiver.scs"
simulatorOptions options reltol=1e-5 vabstol=1e-7 iabstol=1e-13 temp=27

include "divider_v2.scs"
include "limiter_chain.scs"
include "cml_retimer_v2.scs"
VDD (vdd 0) vsource dc=1.2
VP (cp 0) vsource type=sine dc=1.2 ampl=.2 freq=3.936G
VN (cn 0) vsource type=sine dc=1.2 ampl=.2 freq=3.936G sinephase=180
VDP (dp 0) vsource type=pulse val0=.95 val1=1.2 period=1.01626016260n rise=80p fall=80p width=.4281300813n delay=80p
VDN (dn 0) vsource type=pulse val0=1.2 val1=.95 period=1.01626016260n rise=80p fall=80p width=.4281300813n delay=80p
XR (dp dn cp cn out vdd 0) tx_cml_retimer_v2 scale=1 lscale=1
CL (out 0) capacitor c=10f
pss pss fund=984M harms=31 tstab=100n maxstep=3p errpreset=conservative saveinit=yes
pn pnoise start=10k stop=492M dec=20 pnoisemethod=fullspectrum noisetype=sampled measurement=[edge] maxsideband=31
edge jitterevent trigger=[out] triggerthresh=0.6 triggernum=1 triggerdir=rise target=[out] jittercal=[Jee]
save out VDD:p XR.qp XR.qn
saveOptions options save=selected
