simulator lang=spectre
global 0
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=tt
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=stat_noise
simulator lang=spectre insensitive=no
include "cells.scs"
include "receiver.scs"
simulatorOptions options reltol=1e-5 vabstol=1e-7 iabstol=1e-13 temp=27

VDD (vdd 0) vsource dc=1.2
VI (inp 0) vsource type=pulse val0=0 val1=1.2 delay=0 rise=10p fall=10p width=4.98130081300813e-10 period=1.016260162601626e-09
VC (clk 0) vsource type=pulse val0=0 val1=1.2 delay=50p rise=10p fall=10p width=117.032520325p period=254.065040650p
XR (inp clk vdd rt vdd 0) tx_retimer_c2mos
XD (rt out vdd 0) tx_output_buffer
CL (out 0) capacitor c=10f
pss pss fund=984000000.0 harms=31 tstab=1.016260162601626e-08 maxstep=3p errpreset=conservative saveinit=yes
pn pnoise start=10k stop=492000000.0 dec=20 pnoisemethod=fullspectrum noisetype=sampled measurement=[edge] maxsideband=31
edge jitterevent trigger=[out] triggerthresh=0.6 triggernum=1 triggerdir=rise target=[out] jittercal=[Jee]
save inp out VDD:p
saveOptions options save=selected
