simulator lang=spectre
global 0
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=tt
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=stat_noise
simulator lang=spectre insensitive=no
include "cells.scs"
include "receiver.scs"
simulatorOptions options reltol=1e-5 vabstol=1e-7 iabstol=1e-13 temp=27

include "cp_experiment.scs"
VDD (vdd 0) vsource dc=1.2
VP (vp 0) vsource type=sine dc=.6 ampl=.2 freq=3.936G sinephase=150
VN (vn 0) vsource type=sine dc=.6 ampl=.2 freq=3.936G sinephase=330
VR (ref 0) vsource type=pulse val0=0 val1=1.2 period=41.6666666666667n width=20.8233333333333n rise=10p fall=10p
VG (pulse 0) vsource type=pulse val0=0 val1=1.2 period=41.6666666666667n width=2.07333333333333n rise=10p fall=10p delay=2.08333333333333n
VO (out 0) vsource dc=.6
XS (ref vp vn hp hn vdd 0) tx_sampler
XC (hp hn pulse vdd out vdd 0) tx_cp_experiment
pss pss fund=24M harms=8 tstab=200n maxstep=5p errpreset=conservative saveinit=yes
pn pnoise oprobe=VO start=10k stop=10M dec=20 maxsideband=256 pnoisemethod=fullspectrum
save hp hn out pulse ref VO:p VDD:p
saveOptions options save=selected
